US08211908B2
To a solution of 16 g of 4-oxo-6-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-3-yl trifluoromethanesulfonate in 100 mL of acetonitrile, 5.1 mL of propargyl alcohol, 18 mL of triethylamine, 0.62 g of dichlorobis(triphenylphosphine)palladium(II) and 0.42 g of copper (I) iodide were added under a nitrogen atmosphere, and the mixture was stirred at room temperature for 2 hours. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with chloroform:methanol=100:0 to 97:3 to obtain 6.2 g of 5-(3-hydroxy-1-propyn-1-yl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one as a brown oily substance.

reactant | 4-oxo-6-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-3-yl trifluoromethanesulfonate | 16 g | FC(S(=O)(=O)OC1=COC(=CC1=O)COC1OCCCC1)(F)F | C12H13F3O7S
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | propargyl alcohol | 5.1 mL | C(C#C)O | C3H4O
solvent | triethylamine | 18 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.62 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.42 g | [Cu]I
product | 5-(3-hydroxy-1-propyn-1-yl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one | 6.2 g | OCC#CC=1C(C=C(OC1)COC1OCCCC1)=O | C14H16O5
